US09126950B2
To a suspension of Pd/C (0.2 g) in methanol (20 mL), 5-fluoro-N2-(4-((2-methoxyethoxy)methoxy)phenyl)-N4-(3-nitrophenyl)pyrimidine-2,4-diamine (0.40 g) was added under nitrogen atmosphere into the autoclave at room temperature. Hydrogen pressure (70 psi) was applied and the reaction mixture was stirred overnight at room temperature. The reaction was monitored on TLC using hexane:ethyl acetate (4:6) as mobile phase. After completion, the reaction mixture was filtered using Celite and the filter cake was washed with methanol. The combined filtrate was concentrated under reduced pressure at 40° C. to give 0.3 g of N4-(3-aminophenyl)-5-fluoro-N2-(4-((2-methoxyethoxy)methoxy)phenyl)pyrimidine-2,4-diamine as a solid.

reactant | 5-fluoro-N2-(4-((2-methoxyethoxy)methoxy)phenyl)-N4-(3-nitrophenyl)pyrimidine-2,4-diamine | 0.40 g | FC=1C(=NC(=NC1)NC1=CC=C(C=C1)OCOCCOC)NC1=CC(=CC=C1)[N+](=O)[O-] | C20H20FN5O5
reactant | Hydrogen | [H][H] | H2
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | methanol | 20 mL | CO | CH4O
catalyst | Pd/C | 0.2 g | [Pd] | Pd
product | N4-(3-aminophenyl)-5-fluoro-N2-(4-((2-methoxyethoxy)methoxy)phenyl)pyrimidine-2,4-diamine | 0.3 g | NC=1C=C(C=CC1)NC1=NC(=NC=C1F)NC1=CC=C(C=C1)OCOCCOC | C20H22FN5O3
